US08877754B2
3-Iodo-6-isopropoxy-pyridazine
0.50 mL (6.6 mmol) isopropanol are added to 289 mg (7.23 mmol) sodium hydride (60%) in 100 mL THF and the mixture is stirred for 30 min at rt. After that time, 2.0 g (6.0 mmol) 3,6-diiodo-pyridazine are added and the mixture is stirred for 14 h at rt and for 14 h at 50° C. After that time, the mixture is poured into water and extracted with EtOAc. The organic layer is washed with water (2×) and dried over sodium sulphate. The solvent is removed in vacuo and the residue is purified by column chromatography (silicia gel; heptane:EtOAc gradient 0 to 50%).

reactant | isopropanol | 6.6 mmol, 0.50 mL | C(C)(C)O | C3H8O
reactant | sodium hydride | 7.23 mmol, 289 mg | [H-].[Na+]
reactant | 3,6-diiodo-pyridazine | 6.0 mmol, 2.0 g | IC=1N=NC(=CC1)I | C4H2I2N2
reactant | water | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 3-Iodo-6-isopropoxy-pyridazine | IC=1N=NC(=CC1)OC(C)C | C7H9IN2O
